US04414210
A. 2-Hydroxy-2-(2,4-dichlorophenyl) hexyl chloride
Into a 500 ml four-necked flask equipped with a low temperature condenser, a mechanical stirrer, an additional funnel and a nitrogen inlet tub, are placed 102 ml (0.2 m) of n-butyl lithium. This solution is cooled to -60° with an acetone-dry ice bath. A solution of 45 g (0.2 m) of 2,4-dichlorophenacyl chloride dissolved in 250 ml of dry ether is added dropwise. A constant flow of dry nitrogen is maintained throughout the addition. The rate of addition is adjusted so that the reaction temperature does not exceed -55°. After the addition, the reaction is gradually warmed to -10° and then poured into 500 ml of a mixture of saturated ammonium chloride solution and 10% hydrochloric acid solution. The organic layer is separated and the aqueous layer is further extracted with 100 ml of ether. The combined organic extracts are washed with 10% hydrochloric acid and dried over MgSO4. Solvent is evaporated to give 52 g of a pale yellow oil. This material is further purified by vacuum distillation (110°-120°/0.2 mm) to give 44 g of pure product.

reactant | n-butyl lithium | 102 ml | C(CCC)[Li]
reactant | 2,4-dichlorophenacyl chloride | 45 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | 2-Hydroxy-2-(2,4-dichlorophenyl) hexyl chloride | 52 g | OC(CCl)(CCCC)C1=C(C=C(C=C1)Cl)Cl | C12H15Cl3O
